Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Penicillins / erythromycin base / gluten / Tylenol
 
Attending: ___.
 
Chief Complaint:
Papillary thyroid carcinoma
 
Major Surgical or Invasive Procedure:
Total thyroidectomy

 
History of Present Illness:
___ year old woman who has been treated for hypothyroidism for 
some years and recently underwent ultrasound to follow her 
thyroid. At this study bilateral small nodules were noted and 
FNA of left and right side has shown papillary thyroid 
carcinoma.Nodal survey by ___ MD is negative.

There is no known family history of thyroid malignancy or other 
endocrine neoplasia. The patient has no mechanical symptoms from 
this problem such as pressure or difficulty swallowing.

The patient presents today for total thyroidectomy.
 
Past Medical History:
Hypothyroidism 
T1DM on insulin pump well controlled (Dr. ___ at ___)

Past Surgical History:
Cholecystectomy (___)

 
Social History:
___
Family History:
No thyroid cancer/thyroid disorders; Mother - rectal 
cancer,Father- kidney cancer, lung cancer died at ___. 7 siblings 
- 1 brother with leukemia

 
Physical Exam:
GEN: AOx3 WN, WD in NAD
HEENT: NCAT, EOMI, anicteric
CV: RRR
PULM: unlabored breathing with symmetric chest rise, no
respiratory distress
ABD: soft, NT, ND, no mass, no hernia
EXT: WWP, no CCE, no tenderness, 2+ B/L ___

 
Pertinent Results:
___ 07:00AM BLOOD Calcium-8.___ s/p total thyroidectomy for papillary thyroid cancer. She 
tolerated the procedure well;operative details are available in 
separate op note. She was admitted postoperatively to the floor 
overnight for observation.

Initially postop, patient reported fatigue and feeling light 
headed when standing up from the bed, which gradually improved. 
Her vital signs were stable. Patient was tolerating clear 
liquids and  blood sugars were monitored. Diabetes team were 
consulted for management and assessment, and insulin pump was 
restarted per their recommendations. She was started on all of 
her home medications. Her pain was well controlled with 
ibuprofen and oxycodone. Her Calcium level following admission 
was found to be normal 8.4. She had no symptoms of hypocalcemia. 
POD #1, she was started on thyroid hormone replacement. Her 
surgical site remained dry and intact; there were no surgical 
site abnormality. 
At the time of discharge home, POD 1, the patient was tolerating 
regular diet, ambulating, on oral medications, and appropriate 
for completing her recovery at home. 
 
Medications on Admission:
Levoxyl 112 mcg daily
Naproxen 500 mg daily
ASA 81 mg 
Zoloft 50 mg
Bentyl
Vit D, Fiber, Probiotic 
Humalog 
Calcium carbonate 500 mg TID

 
Discharge Medications:
1.  Clobetasol Propionate 0.05% Cream 1 Appl TP BID: PRN 
itchiness 
RX *clobetasol 0.05 % apply to affected area twice a day Disp 
#*1 Gram Refills:*0 
2.  Ibuprofen 600 mg PO Q8H:PRN pain 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*30 Tablet Refills:*0 
3.  Levothyroxine Sodium 125 mcg PO DAILY 
RX *levothyroxine 125 mcg 1 tablet(s) by mouth once a day Disp 
#*30 Tablet Refills:*3 
4.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*20 Tablet Refills:*0 
5.  Insulin  Pump SC (Self Administering Medication)Insulin 
Lispro (Humalog)

Basal Rates:
  Midnight - 10A:  1 Units/Hr
  10A - 2:30PM:  1.1 Units/Hr
  2:30PM - 9PM:  1 Units/Hr
  9PM - MN:  .8 Units/Hr
Meal Bolus Rates:
  Breakfast = 1:10
  Lunch = 1:10
  Dinner = 1:10
  Snacks = 1:10
High Bolus:
  Correction Factor = 1:50
  Correct To ___ mg/dL
6.  Sertraline 50 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Papillary thyroid cancer.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Followup Instructions:
___